US07091201B2
2-Phenyl-ethanesulfonic acid (6-chloro-2-pyridin-4-yl-5-p-tolyl-pyrimidin-4-yl)-amide (480 mg) was added to a solution of K-tert. butylate (580 mg) in ethylene glycol (5 ml). The mixture was stirred at 11° C. for 72 h before it was diluted with water (100 ml), acidified with 10% aq. citric acid (13 ml). The resulting precipitate was collected, washed with water and diethyl ether and dried to give 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-2-pyridin-4-yl-5-p-tolyl-pyrimidin-4-yl]-amide as a beige powder. LC-MS: tR=4.17 min, [M+1]+=491.24, [M−1]−=489.08.

reactant | 2-Phenyl-ethanesulfonic acid (6-chloro-2-pyridin-4-yl-5-p-tolyl-pyrimidin-4-yl)-amide | 480 mg | ClC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)C | C24H21ClN4O2S
reactant | citric acid | 13 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-2-pyridin-4-yl-5-p-tolyl-pyrimidin-4-yl]-amide | OCCOC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)C | C26H26N4O4S
